US07553836B2
To a solution of 2-(tetrahydrofuran-2-yl)ethanol (1.0 g, 8.61 mmol), prepared following the procedure as described in Synthesis 1996, 594, in 15 mL of DMSO was added NaH (344 mg, 8.61 mmol, 60% in mineral oil) in portions. After the resulting suspension was stirred for 15 min., a solution of 1-chloro-2-methoxy-4-nitrobenzene in 5 mL of DMSO was added dropwise. The reaction mixture was stirred overnight, quenched with 15 mL of H2O, and extracted with EtOAc (3×30 mL). The organic layers were combined, dried over Na2SO4, and conc. in vacuo to yield a brown oil. The oil was purified by column chromatography (silica gel, 0%-35% gradient elution with EtOAc/hexanes) to yield 1.68 g (73%) of 2-(2-(2-methoxy-4-nitrophenoxy)ethyl)tetrahydrofuran as a yellow solid. MS (ESI) 268 (M+H)+. Subsequent conversion of the aryl nitro substituent to the title aryl amine was accomplished in 98% yield, following the procedure described in Example 6 step C. MS (ESI) 238 (M+H)+.

reactant | 2-(tetrahydrofuran-2-yl)ethanol | 8.61 mmol, 1.0 g | O1C(CCC1)CCO | C6H12O2
reactant | NaH | 8.61 mmol, 344 mg | [H-].[Na+]
reactant | 1-chloro-2-methoxy-4-nitrobenzene | ClC1=C(C=C(C=C1)[N+](=O)[O-])OC | C7H6ClNO3
solvent | DMSO | 15 mL | CS(=O)C | C2H6OS
solvent | DMSO | 5 mL | CS(=O)C | C2H6OS
product | 2-(2-(2-methoxy-4-nitrophenoxy)ethyl)tetrahydrofuran | 1.68 g, 73% | COC1=C(OCCC2OCCC2)C=CC(=C1)[N+](=O)[O-] | C13H17NO5
